US07393965B2
A 300 ml two-necked flask equipped with a magnetic stirrer, a three-way cock and a dropping funnel, was purged thoroughly with nitrogen. Into the flask, octamethyloctahydrodibenzofluorene 2.98 g (7.71 mmol) was introduced, and dehydrated tetrahydrofuran 60 ml was further added. With cooling in an ice bath, 1.56 mol/L n-hexane solution of n-butyllithium, 5.2 ml (8.1 mmol), was dropwise added. The contents were stirred at room temperature in a nitrogen atmosphere for 7 hours. With the flask cooled in a dry ice/methanol bath, a solution of 6,6-di-p-tolyl fulvene 2.40 g (9.27 mmol) in 30 ml of dehydrated tetrahydrofuran, was dropwise added to the flask over a period of 20 minutes by means of the dropping funnel. The liquid temperature was gradually raised to room temperature, and the solution was stirred in a nitrogen atmosphere at the temperature for 21 hours. A saturated aqueous solution of ammonium chloride 100 ml and diethyl ether 100 ml were gradually added in this order. The resulting two-phase solution was poured into a 300 ml separation funnel, and the funnel was shaken several times so that the water phase was removed. The obtained organic phase was washed twice with water 100 ml and once with a saturated salt solution 100 ml, and dried over anhydrous magnesium sulfate. The solution was filtered to remove solids, and the solvent of the filtrate was distilled away. The residual solid was washed with n-hexane to give 3.55 g of cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)di-p-tolyl methane as a white solid (5.50 mmol, 71.3% yield). Identification of the cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)di-p-tolyl methane was made by 1H NMR and the FD-mass spectrometric analysis, the results being given below:

reactant | octamethyloctahydrodibenzofluorene | 7.71 mmol, 2.98 g | CC1(C(C(C(C=2C1C1C(=C3C=4C=CC=CC4CC23)C=CCC1)(C)C)(C)C)(C)C)C | C29H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6,6-di-p-tolyl fulvene | 9.27 mmol, 2.40 g | C1(=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)C)C | C20H18
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | n-hexane | 1.56 mol/L | CCCCCC | C6H14
product | cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)di-p-tolyl methane | 5.50 mmol, 3.55 g, 71.3% yield | C1(C=CC=C1)C(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1(C(C(C(C2(C3C(=C4C=5C=CC=CC5CC4=C21)C=CCC3)C)(C)C)(C)C)(C)C)C | C49H56
